US08648069B2
tert-Butyl 5-iodo-1H-indazole-1-carboxylate
To an ice bath cooled solution of 4-iodo-2-methylaniline (20 g, 83.24 mmol) in chloroform (250 mL) was added dropwise a solution of acetic anhydride (21.2 g, 208.11 mmol) in chloroform (50 mL). Upon completion of the addition, the mixture was stirred at room temperature for 1 hour. Potassium acetate (2.5 g, 24.97 mmol) and isoamylnitrite (22.3 mL, 166.48 mmol) were added and the mixture was heated at 70° C. for 20 hours. The mixture was cooled and quenched with saturated aqueous NaHCO3 to pH 7. The mixture was extracted with dichloromethane, and the organics were dried over sodium sulfate and filtered. The solvent was evaporated under reduced pressure. The crude solid was washed with methanol, dissolved in tetrahydrofuran (200 mL) and treated with a warm solution of KOH (60 g) in water (200 mL). The mixture was stirred for 15 minutes and was treated with 6 N HCl to pH 1. The layers were separated, the organic layer was dried over sodium sulfate and filtered, and the solvent was evaporated under reduced pressure. The crude solid was dissolved in dichloromethane (500 mL) and triethylamine (23 mL, 166.48 mmol), and di-tert-butyldicarbonate (23.6 g, 108.2 mmol) and a catalytic amount of dimethylaminopyridine (˜5 mg) were added. The mixture was stirred at room temperature for 2 hours, diluted with water, extracted with dichloromethane, and dried with sodium sulfate and filtered. The solvent was evaporated under reduced pressure to afford the title compound. MS (ESI+) m/z 344.9 (M+H)+.

reactant | 4-iodo-2-methylaniline | 83.24 mmol, 20 g | IC1=CC(=C(N)C=C1)C | C7H8IN
reactant | acetic anhydride | 208.11 mmol, 21.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | Potassium acetate | 24.97 mmol, 2.5 g | C(C)(=O)[O-].[K+]
reactant | isoamylnitrite | 166.48 mmol, 22.3 mL | C(CC(C)C)ON=O | C5H11NO2
reactant | triethylamine | 166.48 mmol, 23 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 108.2 mmol, 23.6 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | dimethylaminopyridine | ˜5 mg | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | chloroform | 250 mL | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
product | tert-Butyl 5-iodo-1H-indazole-1-carboxylate | IC=1C=C2C=NN(C2=CC1)C(=O)OC(C)(C)C | C12H13IN2O2
